US08580852B2
(S)-tert-Butyl 2-(2-(benzyloxycarbonylamino)hexyloxy)acetate (15)
To a stirred solution of Z-L-Nle-ol (0.20 g, 0.8 mmol) in benzene (0.8 mL), tert-butyl bromoacetate (0.47 g, 2.4 mmol) and subsequently aqueous NaOH 50% (0.8 mL) and the phase transfer catalyst Bu4NHSO4 (0.07 g, 0.2 mmol) were added. The reaction mixture was vigorously stirred for 2 h. Ethyl acetate (10 mL) and H2O (10 mL) were added and the aqueous layer was separated and extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with brine and dried over Na2SO4. The organic solvent was evaporated under reduced pressure and the residue was purified by column-chromatography using petroleum ether (bp 40-60° C.)/ethyl acetate 8:2 as eluent. Yield 74%; Oil; [a]D=−12.2 (c 1CHCl3); 1H NMR (200 MHz, CDCl3) δ 7.34-7.22 (m, 5H), 5.30 (d, J=8 Hz, 1H), 5.06 (s, 2H), 3.91 (s, 2H), 3.80-3.62 (m, 1H), 3.55 (dd, Ji=9.0 Hz, J2=4.0 Hz, 1H), 3.46 (dd, Ji=9.2 Hz, J2=4.2 Hz, 1H), 1.62-1.45 (m, 2H), 1.43 (s, 9H), 1.37-1.21 (m, 4H), 0.85 (t, J=6.8 Hz, 3H); 13C NMR (50 MHz, CDCl3) δ 169.5, 156.0, 136.6, 128.3, 128.0, 127.8, 81.5, 73.0, 68.7, 66.3, 50.9, 31.4, 28.0, 27.9, 22.4, 13.8. Anal. Calcd for C20H31NO5: C, 65.73; H, 8.55; N, 3.83. Found: C, 65.52; H, 8.71; H, 3.70.

reactant | Z-L-Nle | 0.8 mmol, 0.20 g | N([C@@H](CCCC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | tert-butyl bromoacetate | 2.4 mmol, 0.47 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaOH | 0.8 mL | [OH-].[Na+]
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | benzene | 0.8 mL | C1=CC=CC=C1 | C6H6
catalyst | Bu4NHSO4 | 0.2 mmol, 0.07 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | H2O | 10 mL | O | H2O
product | (S)-tert-Butyl 2-(2-(benzyloxycarbonylamino)hexyloxy)acetate | Yield 74% | C(C1=CC=CC=C1)OC(=O)N[C@H](COCC(=O)OC(C)(C)C)CCCC | C20H31NO5
